datasets/10k_Mayr_OG.csv
SMILES Labelled
"[C:10](=[C:11]=[N-:12])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81].[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([C:10]([C:11]#[N:12])([C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:81])N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>CC(C)(C)C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([CH:10]2CCCC[C:11]2=[N+:12]2CCCC2)([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20;12=11,12"
CN1[C@@H](C(C)(C)C)[NH:10][C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH+:10]2[C@H](C(C)(C)C)N(C)[C:62](=[O:63])[C@@H:61]2CC2=CC=CC=C2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1.C[S+:61](C)/[CH:10]=[C:11](/C1=CC=C(Br)C=C1)[O-:12]>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([CH:10]([C:11](C3=CC=C(Br)C=C3)=[O:12])[S+:61](C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C([N:10]=C2CCCCC2)C=C1.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10](C2=CC=CC=C2)=C2CCCCC2)[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.C[N:12]([C:11]1=[CH:10]CCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([CH:10]1CCC[C:11]1=[N+:12](C)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"[H:10][CH:11]1[CH:12]=[CH:13][CH2:64][CH:63]=[CH:62]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[CH:11]1=[CH:12][CH+:13][CH2:64][CH:63]=[CH:62]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2:20][H:10])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12,13=11,12"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][CH:11]=[CH2:10].[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[CH:11][CH2:10][CH:20]1N2N=N[N:35]=[C:34]2[CH:33]=[CH:32][C:21]1=[N+:22]([O-])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.Cl[C:63]1=[CH:64][CH:73]=[CH:72][N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])=[CH:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][C:63](Cl)=[CH:64][CH:73]=[CH:72]2)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[O:72][C:61]([CH-:10][C:81](C)=[O:82])=[O:62]>>CC[O:72][C:61]([CH:10]([CH:20]([N:21]1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21"
"CCC(CO)[NH2:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C>>CCC(CO)[NH2+:10][CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[CH:10]=[N+:11]([O-:12])[O-:62]>>C[CH:10]([N+:11](=[O:12])[O-:62])[CH:20]1[CH:21]=[C:22](C2=CC=CC=C2)[O:23][C:32]2=[C:31]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
